US04658039
Methallyl 1-(4-chlorobenzoyl)-5-methoxy-2-methyl-3-indoleacetoxyacetate (acemetacin methallyl ester)
10 g of indometacin, 4.0 g of potassium carbonate, 0.4 g of benzyltriethylammonium chloride and 60 ml of acetone are stirred for 30 minutes at 56° C. After addition of methallyl chloroacetate, stirring is continued for 3 hours at 40° C. (check by thin layer chromatography).

reactant | indometacin | 10 g | CC1=C(C=2C=C(C=CC2N1C(=O)C=3C=CC(=CC3)Cl)OC)CC(=O)O | C19H16ClNO4
reactant | potassium carbonate | 4.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | methallyl chloroacetate | ClCC(=O)OCC(C)=C | C6H9ClO2
catalyst | benzyltriethylammonium chloride | 0.4 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | acetone | 60 ml | CC(=O)C | C3H6O
product | Methallyl 1-(4-chlorobenzoyl)-5-methoxy-2-methyl-3-indoleacetoxyacetate | ClC1=CC=C(C(=O)N2C(=C(C3=CC(=CC=C23)OC)CC(=O)OCC(=O)OCC(C)=C)C)C=C1 | C25H24ClNO6
